US04801603
(1) Synthesis of 1-bromo-2-succinimidoethane:
49.5 g of succinamide was dissolved in 750 ml of 2-butanone under heating. 187.9 g of dibromoethane and 138 g of anhydrous potassium carbonate were added to the solution and the mixture was heated under reflux for 9.5 h.

reactant | succinamide | 49.5 g | C(CCC(=O)N)(=O)N | C4H8N2O2
reactant | dibromoethane | 187.9 g | BrC(C)Br | C2H4Br2
reactant | potassium carbonate | 138 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 750 ml | CC(CC)=O | C4H8O
product | 1-bromo-2-succinimidoethane | BrCCN1C(CCC1=O)=O | C6H8BrNO2
